US05574042
To a mixture of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-chloro-2-methylimidazo[1,2-a]pyridine (200 mg), triethylamine (0.1 ml) and dichloromethane (2 ml) was added bromoacetyl chloride (0,042 ml) in a dry ice-acetone bath. After 20 minutes, to the mixture was added 50% aqueous solution of dimethylamine (0.42 ml). The mixture was stirred for 1 hour at ambient temperature. The reaction mixture was washed with aqueous sodium bicarbonate solution, water and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography (dichloromethane:methanol=20:1, V/V) to yield colorless crystals (191 mg) of 3-chloro-8-[2,6-dichloro-3-[N-[N-(N,N-dimethylglycyl)glycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-3-chloro-2-methylimidazo[1,2-a]pyridine | 200 mg | NCC(=O)N(C)C=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Cl)C(=CC1)Cl)Cl | C18H17Cl3N4O2
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl chloride | 0,042 ml | BrCC(=O)Cl | C2H2BrClO
reactant | dimethylamine | 0.42 ml | CNC | C2H7N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-chloro-8-[2,6-dichloro-3-[N-[N-(N,N-dimethylglycyl)glycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 191 mg | ClC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(CN(C)C)=O)=O)Cl)C | C22H24Cl3N5O3
